US04563211
4-Ethylidene-6-methoxy-2-pyrimidinamine
To a stirring solution of 4-methoxy-6-[1-(phenylselenyl)ethyl]-2-pyrimidinamine (14.3 mmol) in 100 ml of CH2Cl2 cooled to -78° C. was added in one portion m-chloroperbenzoic acid (14.3 mmol). The solution was warmed to room temperature, diluted with ether and filtered. A white crystalline solid (0.17 g), m.p. 119°-122° C. was isolated. NMR (200 MHz, CDCl3) δ 3.87 (s, 3H); 5.9 (br s, 2H); 5.5 (d, d, 1H); 6.0 (s, 1H); 6.2-6.6 (m, 2H).

reactant | 4-methoxy-6-[1-(phenylselenyl)ethyl]-2-pyrimidinamine | 14.3 mmol | COC1=NC(=NC(=C1)C(C)[Se]C1=CC=CC=C1)N | C13H15N3OSe
reactant | m-chloroperbenzoic acid | 14.3 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-Ethylidene-6-methoxy-2-pyrimidinamine | 0.17 g | C(C)=C1NC(=NC(=C1)OC)N | C7H11N3O
